US04113871
By the reaction of ethyl 6-[4-(2-aminoethyl)-phenyl]-hexane-carboxylate hydrochloride (m.p. 182°-185° C.) with 5-chloro-2-methoxybenzoyl chloride to give 6-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-hexane-carboxylic acid; m.p. 36° C., after recrystallisation from toluene.

reactant | ethyl 6-[4-(2-aminoethyl)-phenyl]-hexane-carboxylate hydrochloride | Cl.NCCC1=CC=C(C=C1)CCCCCCC(=O)OCC
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | 6-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-hexane-carboxylic acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CCCCCCC(=O)O)C1)OC | C23H28ClNO4
